US06043254
(c) 3-{(Z)-1-[3-(1H-imidazol-4-yl)anilino]-1-phenylmethylidene}-5-nitro-2-indolinone
Prepared by reacting 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone with 1.5 equivalents of 4-(3-amino-phenyl)-imidazole×2 HCl and 3.25 equivalents of triethylamine in DMF (100° C., for 1.5 hours), subsequent treatment with 5 equivalents of piperidine (20° C., 1 hour) and precipitation with water.

reactant | 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OCC)=O | C19H16N2O5
reactant | 4-(3-amino-phenyl)-imidazole | 1.5 equivalents | NC=1C=C(C=CC1)C=1N=CNC1 | C9H9N3
reactant | HCl | Cl | ClH
reactant | triethylamine | 3.25 equivalents | C(C)N(CC)CC | C6H15N
reactant | piperidine | 5 equivalents | N1CCCCC1 | C5H11N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-{(Z)-1-[3-(1H-imidazol-4-yl)anilino]-1-phenylmethylidene}-5-nitro-2-indolinone | N1C=NC(=C1)C=1C=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC=C(C=C23)[N+](=O)[O-])=O)C=CC1 | C24H17N5O3
